US04129537
20.51% of glycidyl methacrylate
16% of saturated fatty acids (C8 - C18 -fatty acids: (caprylic acid, lauric acid, myristic acid, palmitic acid and stearic acid)

reactant | caprylic acid | C(CCCCCCC)(=O)O | C8H16O2
reactant | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | myristic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | palmitic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
product | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
